US06353006B1
N-(2-Hydroxyethyl)-N-(2-methylbutyl)amine was reacted with SOCl2 according to Method B7a to give N-(2-chloroethyl)-N-(2-methylbutyl)ammonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C1a to give to give 2-(2-methyl-4-nitrophenylimino)-3-(2-methyl-1-butyl)-1,3-thiazolidine.

reactant | N-(2-Hydroxyethyl)-N-(2-methylbutyl)amine | OCCNCC(CC)C | C7H17NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | N-(2-chloroethyl)-N-(2-methylbutyl)ammonium chloride | [Cl-].ClCC[NH2+]CC(CC)C | InChI=1S/C7H16ClN.ClH/c1-3-7(2)6-9-5-4-8;/h7,9H,3-6H2,1-2H3;1H
